US04451476
A mixture of 75.4 g of 5-methyl-3-isoxazolepropanoic acid, 150 ml of boron trifluoride etherate and 400 ml of methanol was heated at reflux for eight hours. The reaction mixture was concentrated in vacuo, made basic with sodium bicarbonate solution and extracted with methylene dichloride. The extracts were concentrated in vacuo and the residue distilled at 90°-100° C.(0.05 mm) to give 73 g of methyl 5-methyl-3-isoxazolepropanoate which crystallized to a solid, m.p. 54°-55° C.

reactant | 5-methyl-3-isoxazolepropanoic acid | 75.4 g | CC1=CC(=NO1)CCC(=O)O | C7H9NO3
reactant | boron trifluoride etherate | 150 ml | B(F)(F)F.CCOCC
solvent | methanol | 400 ml | CO | CH4O
product | methyl 5-methyl-3-isoxazolepropanoate | 73 g | CC1=CC(=NO1)CCC(=O)OC | C8H11NO3
